US07569599B2
(3S)-1-Diphenylmethyl-3-hydroxypyrrolidine
Benzophenone (5.47 g) was dissolved in tetrahydrofuran under an argon atmosphere. Titanium(IV) tetraisopropoxide (13.3 mL) was added to the solution at room temperature. After 0.25 h, (3S)-3-hydroxypyrrolidine (2.61 g) in tetrahydrofuran (5.5 mL) was added dropwise to the mixture, and the resultant mixture was stirred at room temperature for 1 hour. After 1 h, polymethylhydrosiloxane (5.8 mL) was added to the reaction mixture, and the resultant mixture was stirred. After 19 h, a 28 wt. % aqueous sodium hydroxide solution (60 mL) was added to the reaction mixture, and the resultant mixture was refluxed for 0.5 hour. The temperature of the reaction mixture was lowered to room temperature and then extracted with toluene. The formed aqueous layer was again extracted with toluene, and the organic layers were combined together, washed with saturated brine, and then dried over sodium sulfate. The drying agent was removed through filtration, and the filtrate was concentrated under reduced pressure, to thereby yield crystalline residue. The residue was subjected to silica gel chromatography, to thereby give the target compound (4.65 g, yield 61.2%). The target compound was purified through recrystallization from isopropyl alcohol.

reactant | Benzophenone | 5.47 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | (3S)-3-hydroxypyrrolidine | 2.61 g | O[C@@H]1CNCC1 | C4H9NO
reactant | sodium hydroxide | 60 mL | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.5 mL | O1CCCC1 | C4H8O
catalyst | Titanium(IV) tetraisopropoxide | 13.3 mL | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
product | (3S)-1-Diphenylmethyl-3-hydroxypyrrolidine | 4.65 g, yield 61.2% | C1(=CC=CC=C1)C(N1C[C@H](CC1)O)C1=CC=CC=C1 | C17H19NO
